US07541374B2
207 mg of 4-trifluoromethyl-3-ethoxycarbonyl-1H-pyrole, 5 ml of tetrahydrofuran and 5 ml of formaldehyde 36% in water were mixed. 0.2 ml of tetrabutylammonium hydroxide 10% in water was added to the mixture at room temperature, followed by stirring at room temperature for 10 minutes. The reaction mixture was poured into ice-water, and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure to obtain crude product of 1-hydroxymethyl-4-trifluoromethyl-3-ethoxycarbonyl-1H-pyrole.

reactant | 4-trifluoromethyl-3-ethoxycarbonyl-1H-pyrole | 207 mg | FC(C=1C(=CNC1)C(=O)OCC)(F)F | C8H8F3NO2
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | formaldehyde | 5 ml | C=O | CH2O
reactant | tetrabutylammonium hydroxide | 0.2 ml | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 1-hydroxymethyl-4-trifluoromethyl-3-ethoxycarbonyl-1H-pyrole | OCN1C=C(C(=C1)C(F)(F)F)C(=O)OCC | C9H10F3NO3
